US04279918
2-(4-chlorobenzyl)-1-methylpyrrolidine
Dissolve 28 g of 2-(p-chlorobenzylidene)-1-methylpyrrolidine in 250 ml of methanol and hydrogenate the thus-obtained solution with Raney nickel as catalyst. Filter the catalyst from the hydrogenated product and then concentrate the filtrate to obtain 22.7 g of the title compound having a boiling point of 75° at 0.005 millimeters (mm) of Hg (yield: 81% of theory). The picrate (from ethanol) melts at 149°.

reactant | 2-(p-chlorobenzylidene)-1-methylpyrrolidine | 28 g | ClC1=CC=C(C=C2N(CCC2)C)C=C1 | C12H14ClN
solvent | methanol | 250 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 2-(4-chlorobenzyl)-1-methylpyrrolidine | 22.7 g | ClC1=CC=C(CC2N(CCC2)C)C=C1 | C12H16ClN
